US05681958
The 10-methylquindolinium hydrochloride obtained above (250 mg, 0.9 mmol) was shaken with an aqueous 5% Na2CO3 solution (50 mL), extracted with ethyl ether (2×50 mL) and purified by HPLC (ethyl acetate-hexane 1:6) to give 100 mg (45.5%) of 10-methylquindoline; 1 H NMR (CDCl3) δ 8.56 (d, J=7.6, H, H8), 8.34 (d, J=8.4, 1H, H4), 7.94 (d, J=8.0, 1H, H1), 7.85 (s, 1H, H11), 7.69-7.61 (m, 2H, H3 and H6), 7.56 (t, J=7.2, 1H, H2), 7.37 (d, J=8.4, 1H, H9), 7.33 (t, J=7.6, 1H, H7), 3.82 (s, 3H, CH3); 13C NMR (CDCl3) δ 145.89, 144.84, 143.92, 133.98, 129.60, 129.12, 127.08, 126.75, 126.12, 125.14, 121.96, 121.47, 119.58, 110.58, 108.34, 28.98; MS (EI, m/z) 232.1 (M+).

reactant | 10-methylquindolinium hydrochloride | Cl.CN1C2=CC=CC=C2C=2[NH+]=C3C=CC=CC3=CC12
solvent | Na2CO3 | 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 10-methylquindoline | 100 mg, 45.5% | CN1C2=CC=CC=C2C=2N=C3C=CC=CC3=CC12 | C16H12N2
